US07465798B2
Intermediate 27: 3-[1-(Benzyloxycarbonyl)indol-3-yl]-1-chloropropan-2-one
The procedure described above for the synthesis of 1-chloro-3-[2-(3-methylbenzo[b]thiophen-2-yl)propan-2-one was followed, reacting 1-(benzyloxycarbonyl)indol-3-yl acetic acid (22.49 g, 72.7 mmol) with oxalyl chloride (7.0 mL, 10 g, 80 mmol, then ethereal diazomethane, then dry HCl gas. Flash chromatography over silica gel (15-20% ethyl acetate in hexanes) gave pure product (21.64 g, 87% yield): 1H NMR (400 MHz, CDCl3) δ 3.97 (d, J=1.0 Hz, 2H) 4.15 (s, 2H) 5.45 (s, 2H) 7.27-7.30 (m, 1H) 7.33-7.51 (m, 7H) 7.63 (s, 1H) 8.19 (br. s, 1H); HRMS (ESI+) calcd for C19H17ClNO3 (MH+) 342.0892, found 342.0900.

reactant | 1-(benzyloxycarbonyl)indol-3-yl acetic acid | 72.7 mmol, 22.49 g | C(C1=CC=CC=C1)OC(=O)N1C=C(C2=CC=CC=C12)CC(=O)O | C18H15NO4
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | HCl | Cl | ClH
product | 3-[1-(Benzyloxycarbonyl)indol-3-yl]-1-chloropropan-2-one | 21.64 g, 87% yield | C(C1=CC=CC=C1)OC(=O)N1C=C(C2=CC=CC=C12)CC(CCl)=O | C19H16ClNO3
